US03960911
5-(4-Chlorobenzoyl)pentanoyl chloride (5.2g; 0.02 mole) in methylene chloride (100 ml) and ferrocene (3.75g; 0.02 mole) were stirred at 0.5° and aluminium chloride (2.7g; 0.02 mole) was added slowly over 0.5 hr. The mixture was stirred at 0.5° for 1.5 hr then water was added. The organic layer was separated. The aqueous layer was extracted with methylene chloride and the combined organic fractions were washed with water, dried (magnesium sulphate) and evaporated to yield a brown solid. This was recrystallized from petroleum ether (60°-80°) to yield pure 5-(4-chlorobenzoyl)pentanoyl ferrocene; 3.23g (40%); mp 103°-6°.

reactant | 5-(4-Chlorobenzoyl)pentanoyl chloride | 0.02 mole, 5.2g | ClC1=CC=C(C(=O)CCCCC(=O)Cl)C=C1 | C12H12Cl2O2
reactant | ferrocene | 0.02 mole, 3.75g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | aluminium chloride | 0.02 mole, 2.7g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-chlorobenzoyl)pentanoyl ferrocene | ClC1=CC=C(C(=O)CCCCC(=O)[C-]2C=CC=C2)C=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C17H16ClO2.C5H5.Fe/c18-15-11-9-14(10-12-15)17(20)8-4-3-7-16(19)13-5-1-2-6-13;1-2-4-5-3-1;/h1-2,5-6,9-12H,3-4,7-8H2;1-5H;/q2*-1;+2
